US09163019B2
11.1 5-Methyl-7-pyridin-4-yl-2-(2-quinolin-2-yl-ethyl)-1,6-dioxo-5H-pyrrolo[3,4-c]pyridine-3-thione
To a mixture of 5-methyl-7-(4-pyridyl)-2-(2-quinolin-2-yl-ethyl)-5H-pyrrolo[3,4-c]pyridine-1,3,6-trione (50 mg, 0.12 mmol) and Lawesson's reagent (25 mg, 0.06 mmol) in toluene (5 ml) was stirred at 110° C. for 12 hours. The solution was concentrated and the residue was purified by preparative thin-layer chromatography (EA:MeOH=5:1) to give the title compound as a yellow solid (10 mg, 19%).

reactant | 5-methyl-7-(4-pyridyl)-2-(2-quinolin-2-yl-ethyl)-5H-pyrrolo[3,4-c]pyridine-1,3,6-trione | 0.12 mmol, 50 mg | CN1C=C2C(=C(C1=O)C1=CC=NC=C1)C(N(C2=O)CCC2=NC1=CC=CC=C1C=C2)=O | C24H18N4O3
reactant | Lawesson's reagent | 0.06 mmol, 25 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-7-pyridin-4-yl-2-(2-quinolin-2-yl-ethyl)-1,6-dioxo-5H-pyrrolo[3,4-c]pyridine-3-thione | 10 mg, 19% | CN1C=C2C(=C(C1=O)C1=CC=NC=C1)C(N(C2=S)CCC2=NC1=CC=CC=C1C=C2)=O | C24H18N4O2S
